US06136823
Synthesis of 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6-fluoro-7-(2-hydroxy-1-methylethylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (300 mg) and 2-amino-1-propanol (400 mg) were added to pyridine (1,200 mg), and the mixture was stirred at 45° C. for 16 hours. Concentrated hydrochloric acid (600 mg) was added to the reaction mixture, and the resultant mixture was concentrated under reduced pressure. Ethanol (2 ml) was added to the residue, and deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (168 mg) as a colorless powder.

reactant | 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 300 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C15H6ClF4N3O3
reactant | 2-amino-1-propanol | 400 mg | NC(CO)C | C3H9NO
reactant | hydrochloric acid | 600 mg | Cl | ClH
solvent | pyridine | 1,200 mg | N1=CC=CC=C1 | C5H5N
product | 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6-fluoro-7-(2-hydroxy-1-methylethylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 168 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NC(CO)C)F)=O)C(=O)O)F)F | C18H14ClF3N4O4
